US07271262B2
247C. [3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-ylsulfanyl)-phenyl]-carbamic acid tert-butyl ester
To a round bottom flask with DMF (5 mL), was added 7-Cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, CuI, N-methylmorphline and (3-Mercapto-phenyl)-carbamic acid tert-butyl ester. The reaction was heated at 110° C. overnight. After cooling to room temperature, the reaction mixture was extracted with EtOAc (80 mL) and saturated sodium bicarbonate solution (60 ml). The organic layer was washed with water, brine, dried over sodium sulfate and concentrated. Purification through flash column afforded the product as a light yellow solid (108 mg, 85%). MS: 426.1 (MH+); HPLC Rf: 6.332 min.; HPLC purity: 96%.

reactant | 7-Cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C1(CCCC1)N1C=C(C2=C1N=CN=C2N)I | C11H13IN4
reactant | N-methylmorphline | CN1CCOCC1 | C5H11NO
reactant | (3-Mercapto-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=CC=C1)S)=O | C11H15NO2S
catalyst | CuI | [Cu]I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | [3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-ylsulfanyl)-phenyl]-carbamic acid tert-butyl ester | 108 mg, 85% | C(C)(C)(C)OC(NC1=CC(=CC=C1)SC1=CN(C=2N=CN=C(C21)N)C2CCCC2)=O | C22H27N5O2S
